US08252793B2
2-(2-(methylcarbamoyl)morpholino)acetic acid and 2-amino-N-(2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)-N-methylacetamide were coupled using EDCI to give 4-(2-((2-((2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)(methyl)amino)-2-oxoethyl)amino)-2-oxoethyl)-N-methylmorpholine-2-carboxamide. MS (APCI) 684 (M+); 1H NMR (CDCl3) 2.26-2.40 (m, 1H), 2.61-2.82 (m, 4H), 2.95-3.15 (m, 2H), 3.15-3.28 (m, 4H), 3.40-3.49 (m, 1H), 3.61-3.91 (m, 2H), 3.90-4.01 (m, 1H), 4.08-4.18 (m, 1H), 4.22 (s, 3H), 5.28 (s, 2H), 5.62-5.70 (m, 2H), 6.51-6.58 (m, 1H), 6.75-6.87 (m, 2H), 6.91 (d, 1H, J=5.7 Hz), 7.02-7.06 (t, 1H, J=6.2 Hz), 7.19-7.21 (m, 1H), 7.31-7.33 (m, 1H), 7.46-7.49 (m, 1H), 7.55-7.62 (m, 1H), 7.78-7.90 (m, 1H), 8.57 (m, 1H). C32H35Cl2N7O6+0.8 H2O, Calculated: C, 54.97; H, 5.28; N, 14.03. Found: C, 54.99; H, 5.20; N, 13.85.

reactant | 2-(2-(methylcarbamoyl)morpholino)acetic acid | CNC(=O)C1OCCN(C1)CC(=O)O | C8H14N2O4
reactant | 2-amino-N-(2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)-N-methylacetamide | NCC(=O)N(C)C1=C(C(=C(C=C1)Cl)COC1=CC=CC=2N(C(=NC21)OC)CC2=NC=CC=C2)Cl | C24H23Cl2N5O3
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
product | 4-(2-((2-((2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)(methyl)amino)-2-oxoethyl)amino)-2-oxoethyl)-N-methylmorpholine-2-carboxamide | ClC1=C(C=CC(=C1COC1=CC=CC=2N(C(=NC21)OC)CC2=NC=CC=C2)Cl)N(C(CNC(CN2CC(OCC2)C(=O)NC)=O)=O)C | C32H35Cl2N7O6
